US03932386
To 300 ml. of anhydrous ethanol is added 100 g. (0.293 mole) of anhydrous 6-(1-aminocyclohexanecarboxamido)penicillanic acid followed by 23.6 g. (0.322 mole) of diethylamine at about 20°C. with stirring. After stirring of one half hour, the solution is clarified by filtration through diatomaceous earth and the filter cake is washed with 50 ml. of a 1:1 mixture of hexane and anhydrous ethanol. The resulting solution of diethylamine 6-(1-aminocyclohexanecarboxamido)penicillanate is diluted with 500 ml. of hexane. To the slowly stirred solution of the diethylamine salt is gradually added over a thirty minute period at from about 20°-23° C., a solution of sodium 2-ethylhexanoate (prepared by the reaction of 16.6 g. (0.309 mole) of sodium methoxide with 46.5 g. (0.322 mole) of 2-ethylhexanoic acid in 200 ml. of a 1:1 mixture of anhydrous ethanol and hexane at a temperature maintained below 30°C. followed by filtration and the addition of 15 ml. of a 1:1 mixture of hexane and anhydrous ethanol to wash the filter). After addition of about 75 ml. of the solution of sodium 2-ethylhexanoate, seed material of sodium 6-(1-aminocyclohexanecarboxamido)penicillanate separately formed, is added to the solution to initiate crystallization. After complete addition of the sodium 2-ethylhexanoate solution, stirring is continued for 1/2 hour, 200 ml. of hexane is added over a 30 minute period and stirring is continued for another half hour at from about 20°-23°C.

reactant | 6-(1-aminocyclohexanecarboxamido)penicillanic acid | 0.293 mole | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)C3(CCCCC3)N)C(=O)O)C | C15H23N3O4S
reactant | diethylamine | 0.322 mole | C(C)NCC | C4H11N
reactant | sodium methoxide | 0.309 mole | C[O-].[Na+]
reactant | 2-ethylhexanoic acid | 0.322 mole | C(C)C(C(=O)O)CCCC | C8H16O2
solvent | hexane | CCCCCC | C6H14
solvent | ethanol | C(C)O | C2H6O
product | sodium 2-ethylhexanoate | C(C)C(C(=O)[O-])CCCC.[Na+] | InChI=1S/C8H16O2.Na/c1-3-5-6-7(4-2)8(9)10;/h7H,3-6H2,1-2H3,(H,9,10);/q;+1/p-1
